US08420816B2
STEP A: (R)-tert-butyl 3-methyl-1-oxo-1-(pyrrolidin-1-yl)butan-2-ylcarbamate
To a mixture of (R)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid (1.0 g, 4.60 mmol), HATU (2.1 g, 5.52 mmol) and pyrrolidine (0.812 mL, 9.21 mmol) in DCM (30 mL) was added Et3N (1.28 mL, 9.21 mmol). The reaction mixture was stirred at room temperature for 5 h and then washed with saturated aqueous NaHCO3 and brine. The organics were dried over MgSO4 and concentrated. Purification by silica column chromatography (MeOH/DCM, 0-10%) afforded the title compound as a light yellow oil (1.18 g, 95%). 1H NMR (400 MHz, CDCl3) δ 0.95 (d, J=18.95 Hz, 3 H) 0.95 (d, J=5.31 Hz, 3 H) 1.30-1.53 (m, 9 H) 1.77-2.07 (m, 5 H) 3.33-3.59 (m, 3 H) 3.59-3.80 (m, 1 H) 4.25 (dd, J=9.35, 6.57 Hz, 1 H) 5.30 (d, J=9.09 Hz, 1 H).

reactant | (R)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid | 4.60 mmol, 1.0 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C(C)C | C10H19NO4
reactant | HATU | 5.52 mmol, 2.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | pyrrolidine | 9.21 mmol, 0.812 mL | N1CCCC1 | C4H9N
reactant | Et3N | 9.21 mmol, 1.28 mL | CCN(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 3-methyl-1-oxo-1-(pyrrolidin-1-yl)butan-2-ylcarbamate | 1.18 g, 95% | CC([C@H](C(N1CCCC1)=O)NC(OC(C)(C)C)=O)C | C14H26N2O3
